US09029560B2
Preparation of N-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)prop-2-en-1-amine (CB26)
The title compound was prepared from tert-butyl allyl(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate (CB65), neutralized with aqueous sodium bicarbonate, and isolated as a yellow solid (0.124 g, 90%): mp 110-120° C.; 1H NMR (400 MHz, CDCl3) δ 8.54 (s, 1H), 8.14-8.07 (m, 2H), 7.81-7.73 (m, 2H), 7.42-7.34 (m, 2H), 7.34-7.28 (m, 2H), 5.92 (ddt, J=16.9, 10.2, 6.6 Hz, 1H), 5.43-5.22 (m, 2H), 3.49 (dt, J=6.6, 1.2 Hz, 2H), 3.19-2.92 (m, 5H); 19F NMR (376 MHz, CDCl3) δ −58.04; ESIMS m/z 389 ([M+H]+).

reactant | tert-butyl allyl(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate | C(C=C)N(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C25H27F3N4O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)prop-2-en-1-amine | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CCNCC=C)C=C1)(F)F | C20H19F3N4O
